*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/bias_lpe.spi
#else
.include ../../../work/xsch/bias.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p
.param AVDD = {vdda}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS VSS 0 DC 0
VDD VDD VSS DC {AVDD}
VSLP SLP VSS PWL(100n {AVDD} 101n 0 199n 0 200n {AVDD})
VSLPN SLP_N VSS PWL(100n 0 101n {AVDD} 199n {AVDD} 200n 0)

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save all
* .option savecurrents

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

optran 0 0 0 1ns 1us 0


tran 1ns 250ns 1ps
write
quit


.endc

.end
